US05773449
7-Hydroxymethyl-4-chloroquinoline (930 mg, 4.82 mmol) dissolved in anhydrous methylene chloride (40 ml) was added with triethylamine (679 mg, 6.72 mmol). The mixture was cooled in dry ice/acetone bath, added dropwise with methanesulfonyl chloride (770 mg, 6.7 mmol) and the reactant was stirred for 20 minutes without the cooling bath. Then, the reactant was added under ice-water cooling with cool aqueous solution of saturated sodium bicarbonate (40 ml) and ethyl acetate (150 ml) and shaken to separate the organic layer. The separated organic layer was washed with saturated saline solution and dried over magnesium sulfate. The solvent was removed to obtain 7-methanesulfonylmethyl-4-chloroquinoline as oily product.

reactant | 7-Hydroxymethyl-4-chloroquinoline | 4.82 mmol, 930 mg | OCC1=CC=C2C(=CC=NC2=C1)Cl | C10H8ClNO
reactant | triethylamine | 6.72 mmol, 679 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.7 mmol, 770 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 40 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 7-methanesulfonylmethyl-4-chloroquinoline | CS(=O)(=O)CC1=CC=C2C(=CC=NC2=C1)Cl | C11H10ClNO2S
